US08039469B2
Preparation of tert-butyl 3-[(4-morpholin-4-yl-6-{4-[(pyridine-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl)amino]azetidine-1-carboxylate
To a stirred solution of tert-butyl 3-{[4-(4-aminophenyl)-6-morpholin-4-yl-1,3,5-triazin-2-yl]amino}azetidine-1-carboxylate (200 mg, 0.47 mmol) in DCM (100 ml) at 0° C., triphosgene (300 mg) and triethylamine (3 ml) was added slowly. The reaction mixture was stirred for 15 minutes and 4-aminopyridine (200 mg. 2.1 mmol) was added. The reaction mixture was stirred at room temperature for 24 hours and concentrated. It was quenched with cold water and the separated solid was filtered and washed with water. It was dried and purified by Gilson HPLC. Yield 100 mg (40%); (M+H) 548.6

reactant | tert-butyl 3-{[4-(4-aminophenyl)-6-morpholin-4-yl-1,3,5-triazin-2-yl]amino}azetidine-1-carboxylate | 0.47 mmol, 200 mg | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)NC1CN(C1)C(=O)OC(C)(C)C | C21H29N7O3
reactant | triphosgene | 300 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridine | 2.1 mmol, 200 mg | NC1=CC=NC=C1 | C5H6N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[(4-morpholin-4-yl-6-{4-[(pyridine-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl)amino]azetidine-1-carboxylate | N1(CCOCC1)C1=NC(=NC(=N1)C1=CC=C(C=C1)NC(NC1=CC=NC=C1)=O)NC1CN(C1)C(=O)OC(C)(C)C | C27H33N9O4
